US05604240
a) 4-Methyl-5-nitro-2-(1,2,4-triazol-1-yl)pyridine
To a solution of 1,2,4-triazole (4.0 g, 58 mmol) in dry DMF (20 mL) was added potassium carbonate (12.0 g, 87 mmol) and 2-chloro-4-methyl-5-nitropyridine (10 g, 58 mmol) and the mixture stirred at ambient temperature under nitrogen for 24 hours. Ethyl acetate (500 mL) and water (250 mL) were added to the mixture and the resulting precipitate was collected by filtration to give the title compound (5.08 g, 43%) as a pale brown solid. The filtrate was separated and the organic phase was washed with water (250 mL) and brine (250 mL), dried (MgSO4) and evaporated. The residue was triturated with ethyl acetate and the precipitate collected by filtration to give the title compound as a brown solid (4.11 g, 35%, overall yield 78%). mp 198°-200° C. 1NMR (360 MHz, CDCl3) δ2.72 (3H, s), 7.86 (1H, s), 8.07 (1H, s) 9.03 (1H, s) and 9.15 (1H, s).

reactant | 1,2,4-triazole | 58 mmol, 4.0 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 87 mmol, 12.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-4-methyl-5-nitropyridine | 58 mmol, 10 g | ClC1=NC=C(C(=C1)C)[N+](=O)[O-] | C6H5ClN2O2
reactant | Ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 250 mL | O | H2O
product | 4-Methyl-5-nitro-2-(1,2,4-triazol-1-yl)pyridine | 5.08 g, 43% | CC1=CC(=NC=C1[N+](=O)[O-])N1N=CN=C1 | C8H7N5O2
